* C:\Users\facun\Documents\LTspiceXVII\Draft2.asc
XU1 N010 N005 N007 N012 N003 level1 LM324 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N002 N009 6430
R3 N003 N005 10k
R4 N005 0 6210
R5 0 N002 1500
V1 N009 0 SINE() AC 1
R8 out N004 10k
R9 N004 0 6210
C3 N001 0 8.1n
C4 N008 N001 10n
R11 N008 0 20.63k
R6 out N001 20.63k
V2 0 N011 10
V3 0 N012 10
V4 N007 0 10
V5 N006 0 10
XU2 N008 N004 N006 N011 out level1 LM324 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C5 N001 N003 1.9n
R2 N010 N002 1200
C1 N010 0 100n
C2 N003 N002 100n
.SUBCKT LM324 1 2 3 4 5 DUMMY
R44 4 6 4E4
I1 4 7 0.5E-6
Q1 4 8 9 QPI
Q2 4 2 10 QPA
Q3 9 9 11 QPI
Q4 10 10 11 QPI
Q5 12 13 4 QNQ
Q6 13 13 4 QNQ
Q7 4 12 14 QPQ
Q8 3 14 6 QNQ
Q9 15 6 4 QNQ
Q10 3 15 16 QNQ
Q11 3 16 17 QNQ
R67 17 16 4E4
R68 5 17 18
Q12 4 15 5 QPQ
Q13 15 17 5 QNQ
I2 18 3 120E-9
I3 19 3 60E-9
I4 20 3 1E-6
Q14 11 18 3 QPQ
Q15 14 19 3 QPQ
Q16 5 7 4 QNQ
Q17 15 20 3 QPQ
C15 21 22 4.8E-12
R69 12 21 3
R70 12 15 3E9
E2 23 8 3 0 -10E-6
V51 23 1 1.56E-3
I6 3 4 5E-6
R71 4 3 4.5E5
Q18 12 9 11 QPQ
Q19 13 10 11 QPQ
C17 12 13 8E-12
C18 6 15 1E-12
C21 3 24 100E-15
R78 11 24 3E5
C22 1 2 0.23E-12
C23 2 0 0.79E-12
C24 1 0 0.79E-12
E3 22 0 15 0 2
C25 5 0 50E-15
Q20 25 25 0 QNQ
G1 3 4 VT 0 3E-4
I7 0 25 1E-3
V53 25 26 0.25
R79 0 26 1E6
E4 VT 0 27 26 1
R80 0 VT 1E6
V54 27 0 0.55
R81 0 27 1E6
.MODEL QPQ PNP IKF=3E-3 RC=300 KF=4.8E-17 BR=1
.MODEL QPA PNP IKF=3E-3 RC=380 IS=1.01E-16 VAF=245 RE=5 RB=1700 BF=300 KF=4.8E-17 BR=1
.MODEL QPI PNP IKF=3E-3 RC=380 IS=1.01E-16 VAF=290 RE=5 RB=1700 BF=306 KF=4.8E-17 BR=1
.MODEL QNQ NPN IKF=5E-3 RC=25  KF=4.8E-17 BR=1
.ENDS
* END SPICE MODEL LM324
;tran 0 .1 0 .01
.ac dec 10 200 4000
.lib UniversalOpAmp1.lib
.backanno
.end
